US07968573B2
To a mixture of 17.6 g of N,N-dimethyl-1H-pyrazole-1-sulfonamide and 200 ml of tetrahydrofuran was added dropwise 80 ml of a 1.3M solution of n-butyl lithium in hexane at −78° C., and the resulting mixture was stirred at −78° C. for 15 minutes. To the mixture, a solution of 35.8 g of 1,2-dibromo-1,1,2,2-tetrachloroethane in 60 ml of tetrahydrofuran was added dropwise, and the resulting mixture was stirred at −78° C. for 15 minutes. The reaction mixture was returned to room temperature, and stirred for 1 hour. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate three times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to obtain 21.3 g of 5-bromo-N,N-dimethyl-1H-pyrazole-1-sulfonamide of the formula:

reactant | N,N-dimethyl-1H-pyrazole-1-sulfonamide | 17.6 g | CN(S(=O)(=O)N1N=CC=C1)C | C5H9N3O2S
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 35.8 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-bromo-N,N-dimethyl-1H-pyrazole-1-sulfonamide | 21.3 g | BrC1=CC=NN1S(=O)(=O)N(C)C | C5H8BrN3O2S
